US04067725
d. 2[(2,6-dichloro-3-pyridyl)oxy]propionic acid chloride
23.6 g (0.1 mole) of 2-[(2,6-dichloro-3-pyridyl)oxy]-propionic acid, 150 ml of chloroform and 1.5 ml of dimethylformamide are heated with stirring to 55°, and in the course of 1 hour a solution of 18 g (0.15 mole) of thionyl chloride in 40 ml of chloroform is added dropwise. The reaction mixture is subsequently refluxed for 16 hours and is afterwards concentrated in vacuo. The product obtained is used directly for further reactions.

reactant | 2-[(2,6-dichloro-3-pyridyl)oxy]-propionic acid | 0.1 mole, 23.6 g | ClC1=NC(=CC=C1OC(C(=O)O)C)Cl | C8H7Cl2NO3
reactant | dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
reactant | thionyl chloride | 0.15 mole, 18 g | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
product | 2[(2,6-dichloro-3-pyridyl)oxy]propionic acid chloride | ClC1=NC(=CC=C1OC(C(=O)Cl)C)Cl | C8H6Cl3NO2
